US05977141
(c) (±)-5-Phenyl-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-pentanoic acid
In a manner similar to Example 3(b), (±)-2-(4-fluoro-benzenesulfonylamino)-5-phenyl-pentanoic acid was condensed with 4-phenyl-piperidine hydrochloride to give the title compound, mp=59-62° C.

reactant | (±)-2-(4-fluoro-benzenesulfonylamino)-5-phenyl-pentanoic acid | FC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CCCC1=CC=CC=C1 | C17H18FNO4S
reactant | 4-phenyl-piperidine hydrochloride | Cl.C1(=CC=CC=C1)C1CCNCC1
product | (±)-5-Phenyl-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-pentanoic acid | C1(=CC=CC=C1)CCCC(C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C28H32N2O4S
